US05674886
EXAMPLE 69 1-[N-benzyl-N-(4-cyanophenyl)amino]-1H-1,2,4-triazole
Starting Compounds: 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole and benzyl bromide

reactant | 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)NN1N=CN=C1 | C9H7N5
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-[N-benzyl-N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C#N)N1N=CN=C1 | C16H13N5
